US07320973B2
(R)-3-Fluoro-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine hydrochloride
0.3 ml of 4 M hydrogen chloride/dioxane was added to a solution of (R)-3-fluoro-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine (300 mg, 0.7 mmol) in dichloromethane (5 ml), and they were stirred together for 30 minutes. The solvent was evaporated under reduced pressure. The obtained residue was solidified with a mixed solvent of hexane and ethyl acetate. The solid thus precipitated was taken by the filtration to obtain the title compound in the form of a brown solid (257 mg, 79%).

reactant | hydrogen chloride dioxane | 4 M, 0.3 ml | Cl.O1CCOCC1
reactant | (R)-3-fluoro-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine | 0.7 mmol, 300 mg | FC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCCC3)CCC3=CC=C(C=C3)OC)C1 | C28H31FN2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-3-Fluoro-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine hydrochloride | Cl.FC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCCC3)CCC3=CC=C(C=C3)OC)C1 | InChI=1S/C28H31FN2O2.ClH/c1-32-25-13-9-21(10-14-25)15-17-30-16-5-4-6-24(30)19-31-26-7-2-3-8-28(26)33-20-22-11-12-23(29)18-27(22)31;/h2-3,7-14,18,24H,4-6,15-17,19-20H2,1H3;1H/t24-;/m1./s1
